US05760021
A mixture of 2-Hydroxy-2-phosphono-4-(2-pyridylamino)butanoic acid (1.5 g), 100 ml of distilled water, and 0.5 g of palladium on carbon catalyst is hydrogenated at 40 PSI on a Parr apparatus for 2 days. The catalyst is removed by filtration, and the filtrate is evaporated to dryness under vacuum. The resulting crude product is purified by recrystallization from water/ethanol to yield 2-hydroxy-2-phosphono-4-((2-piperidinylidene)amino)butanoic acid.

reactant | 2-Hydroxy-2-phosphono-4-(2-pyridylamino)butanoic acid | 1.5 g | OC(C(=O)O)(CCNC1=NC=CC=C1)P(=O)(O)O | C9H13N2O6P
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | water | 100 ml | O | H2O
product | 2-hydroxy-2-phosphono-4-((2-piperidinylidene)amino)butanoic acid | OC(C(=O)O)(CCN=C1NCCCC1)P(=O)(O)O | C9H17N2O6P
